US04532240
6-Ethyl-5-[4-(phenylmethyl)-1-piperazinyl]-2,4(1H,3H)-pyrimidinedione
A mixture of 57.0 g (0.260 mole) of 5-bromo-6-ethyl-2,4(1H,3H)pyrimidinedione and 26.6 g (0.286 mole) of anhydrous potassium fluoride in 176 ml (1 mole) of 1-benzylpiperazine was heated under reflux at 140° C. for four hours and cooled. The reaction mixture was poured into 1000 ml of ice water. The solid was collected and washed with water. Recrystallization from N,N dimethylformamide and drying in vacuo at 59° C. for 16 hours gave the product as an off-white solid; mp 255°-256° C.

reactant | 5-bromo-6-ethyl-2,4(1H,3H)pyrimidinedione | 0.260 mole, 57.0 g | BrC=1C(NC(NC1CC)=O)=O | C6H7BrN2O2
reactant | potassium fluoride | 0.286 mole, 26.6 g | [F-].[K+]
reactant | 1-benzylpiperazine | 1 mole, 176 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 6-Ethyl-5-[4-(phenylmethyl)-1-piperazinyl]-2,4(1H,3H)-pyrimidinedione | C(C)C1=C(C(NC(N1)=O)=O)N1CCN(CC1)CC1=CC=CC=C1 | C17H22N4O2
